US05629325
54b. 5-bromo-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine
Triphenylphosphine (4.01 g, 15.3 mmol) and DEAD (2.43 mL, 15.3 mmol) were dissolved in 30 mL of THF at 0° C., and the mixture was stirred for for 10 minutes. Samples of 1-BOC-2-(S)-azetidinemethanol (2.86 g, 15.3 mmol), prepared as described above, and 5-bromo-3-hydroxypyridine (1.505 g, 10.2 mmol) were added, and the reaction mixture was stirred for 40 hours at room temperature. The volatiles were removed under vacuum, and the residue was triturated with hexane. The hexane was removed, and the residue was chromatographed on a silica gel column, eluting with hexane:ether 10:1 to 10:2 to afford the title compound as a colorless oil (1.669 g). MS (CI/NH3) m/z 344 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.42 (s, 9H), 2.31 (m, 2H), 3.89 (m, 2H), 4.12 (m, 1H), 4.322 (m, 1H), 4.52 (m, 1H), 7.43 (m, 1H), 8.29 (m, 2H).

reactant | Triphenylphosphine | 15.3 mmol, 4.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 15.3 mmol, 2.43 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-BOC-2-(S)-azetidinemethanol | 15.3 mmol, 2.86 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)CO | C9H17NO3
reactant | 5-bromo-3-hydroxypyridine | 10.2 mmol, 1.505 g | BrC=1C=C(C=NC1)O | C5H4BrNO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine | 1.669 g | BrC=1C=C(C=NC1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C14H19BrN2O3
